US08957070B2
N-Ethyl-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-4,5-dimethyl-1H-indol-7-yl}thiophene-2-sulfonamide
A mixed solution of N-ethyl-N-[2-(5-formyl-1,3-thiazol-2-yl)-4,5-dimethyl-1H-indol-7-yl]thiophene-2-sulfonamide (85 mg), methanol (10 mL) and tetrahydrofuran (15 mL) was added sodium borohydride (10 mg) under ice-cooling, and the mixture was stirred at the same temperature for 2 hr. Aqueous citric acid solution was added to the reaction mixture, and the organic solvent was evaporated under reduced pressure. The obtained mixture was extracted with ethyl acetate, washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The obtained crystals were washed with ethyl acetate-hexane to give the title compound (84 mg, yield 99%) as pale-yellow crystals, melting point 189-190° C.

reactant | N-ethyl-N-[2-(5-formyl-1,3-thiazol-2-yl)-4,5-dimethyl-1H-indol-7-yl]thiophene-2-sulfonamide | 85 mg | C(C)N(S(=O)(=O)C=1SC=CC1)C=1C=C(C(=C2C=C(NC12)C=1SC(=CN1)C=O)C)C | C20H19N3O3S3
reactant | methanol | 10 mL | CO | CH4O
reactant | sodium borohydride | 10 mg | [BH4-].[Na+]
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | N-Ethyl-N-{2-[5-(hydroxymethyl)-1,3-thiazol-2-yl]-4,5-dimethyl-1H-indol-7-yl}thiophene-2-sulfonamide | 84 mg, yield 99% | C(C)N(S(=O)(=O)C=1SC=CC1)C=1C=C(C(=C2C=C(NC12)C=1SC(=CN1)CO)C)C | C20H21N3O3S3
